US07678803B2
Palladium acetate (II) (0.556 g, 2.5 mmol) is added to a degassed solution of 2-bromo-4-fluoro-benzonitrile (10 g, 50 mmol), 3-ethoxyacrylonitrile (10.3 mL, 100 mmol) and triethylamine (14 mL, 100 mmol) in toluene (75 mL). The reaction mixture is stirred in an oil bath at 100° C. for 1 day. The reaction mixture is cooled to RT, filtered through a pad of Celite, and the filter cake is rinsed with EtOAc. After evaporation of the solvent, the residue is purified using a Biotage column eluted with 0-50% EtOAc/hexanes (20 CV) to afford 8.77 g (94%) of 2-(1-cyano-2-ethoxy-vinyl)-4-fluoro-benzonitrile. LC/MS: RT=3.38 min, no ionization.

reactant | 2-bromo-4-fluoro-benzonitrile | 50 mmol, 10 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | 3-ethoxyacrylonitrile | 100 mmol, 10.3 mL | C(C)OC=CC#N | C5H7NO
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 2.5 mmol, 0.556 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(1-cyano-2-ethoxy-vinyl)-4-fluoro-benzonitrile | 8.77 g, 94% | C(#N)C(=COCC)C1=C(C#N)C=CC(=C1)F | C12H9FN2O
